US06699859B1
g) 6-(2-Methyl-2H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-7-(pyrrolidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazine
To (2-methyl-2H-1,2,4-triazol-3-yl)methanol (2.5 g, 0.022 mol; EP-A-421210) in DMF (200 ml) was added a 60% suspension of sodium hydride in mineral oil (1.2 g, 0.031 mol), and the resultant slurry was stirred at room temperature under nitrogen for 1 h. 6-Chloro-3-phenyl-7-(pyrrolidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazine (6.0 g, 0.020 mol) was added, and the mixture was stirred as before for 30 min. Water (600 ml) was added, precipitating a solid. This was filtered off, then washed with water and diethyl ether. The crude product was dissolved in a mixture of ethanol (50 ml) and dichloromethane (110 ml), and then the chlorinated solvent was boiled off. The resultant solution was cooled to 4° C. precipitating the title compound as a white solid (6.3 g, 83%). 1H NMR (400 MHz, CDCl3) δ1.97 (4H, m), 3.47 (4H, m), 3.97 (3H, s), 5.59 (2H, s), 6.72 (1H, s), 7.48 (3H, m), 7.95 (1H, s), 8.28 (2H, m); MS (ES+) m/e 377[MH]+.

reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 0.022 mol, 2.5 g | CN1N=CN=C1CO | C4H7N3O
reactant | sodium hydride | [H-].[Na+]
reactant | 6-Chloro-3-phenyl-7-(pyrrolidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazine | 0.020 mol, 6.0 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)N2CCCC2 | C15H14ClN5
reactant | Water | 600 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 6-(2-Methyl-2H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-7-(pyrrolidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazine | CN1N=CN=C1COC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)N2CCCC2 | C19H20N8O
